US06194487B1
Next, the 1,3-diaminopropane vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 2 minutes. Consequently, 1,3-diaminopropane condensed on the surface of the base particles. A polymerization reaction took place between 1,3-diaminopropane condensed on the surface of the base particles and 1,3-propanedisulfonyl chloride making up the base particles, forming a film of 1,3-propanedisulfonylchloride-1,3-diaminopropane co-polymer on the surface of the base particles.

reactant | 1,3-diaminopropane | NCCCN | C3H10N2
reactant | 1,3-propanedisulfonyl chloride | C(CCS(=O)(=O)Cl)S(=O)(=O)Cl | C3H6Cl2O4S2
product | 1,3-propanedisulfonylchloride 1,3-diaminopropane | C(CCS(=O)(=O)Cl)S(=O)(=O)Cl.NCCCN | InChI=1S/C3H6Cl2O4S2.C3H10N2/c4-10(6,7)2-1-3-11(5,8)9;4-2-1-3-5/h1-3H2;1-5H2
